US03975437
Following the procedure of Example 6 but starting with 2-(5-oxo-10,11-dihydrodibenzo[a,d]cyclohepten-2-yl)propionyl chloride (10 g.) and dimethylamine (4.5 g.), 2-(5-oxo-10,11-dihydrodibenzo[a,d]cyclohepten-2-yl)-N,N-dimethylpropionamide (10 g.) is obtained in the form of an oil.

reactant | 2-(5-oxo-10,11-dihydrodibenzo[a,d]cyclohepten-2-yl)propionyl chloride | 10 g | O=C1C2=C(CCC3=C1C=CC(=C3)C(C(=O)Cl)C)C=CC=C2 | C18H15ClO2
reactant | dimethylamine | 4.5 g | CNC | C2H7N
product | 2-(5-oxo-10,11-dihydrodibenzo[a,d]cyclohepten-2-yl)-N,N-dimethylpropionamide | 10 g | O=C1C2=C(CCC3=C1C=CC(=C3)C(C(=O)N(C)C)C)C=CC=C2 | C20H21NO2
